US05840947
6. 2-(2-(3-Quinolyl)benzyl)propionic Acid
104 g (0.6 mol) of diethyl methylmalonate were added dropwise at room temperature to 13.8 g (0.6 mol) of sodium in 300 cm3 of H2 O-free EtOH. Subsequently, 178 g (0.6 mol) of 2-(3-quinolyl)benzyl bromide were added dropwise and the mixture was heated under reflux for 3 hours. At room temperature, 100 g (1.8 mol) of KOH dissolved in 400 cm3 of H2O were added and the mixture was heated under reflux for a further 4 hours. The EtOH was distilled off and the residue was admixed with H2O until completely dissolved and subsequently acidified with concentrated aqueous HCl to a pH of 1. The precipitate formed was filtered off with suction, dried and heated for 1 hour at 130° C. This gave 145 g (83%) of 2-(2-(3-quinolyl)benzyl)propionic acid as solid.

reactant | diethyl methylmalonate | 0.6 mol, 104 g | CC(C(=O)OCC)C(=O)OCC | C8H14O4
reactant | sodium | 0.6 mol | [Na] | Na
reactant | 2-(3-quinolyl)benzyl bromide | 0.6 mol, 178 g | N1=CC(=CC2=CC=CC=C12)C1=C(CBr)C=CC=C1 | C16H12BrN
reactant | KOH | 1.8 mol, 100 g | [OH-].[K+]
solvent | H2O | 400 cm3 | O | H2O
product | 2-(2-(3-Quinolyl)benzyl)propionic Acid | N1=CC(=CC2=CC=CC=C12)C1=C(CC(C(=O)O)C)C=CC=C1 | C19H17NO2
